### PR TITLE
[Merged by Bors] - feat(SetTheory): Upper bound for games

### PR DESCRIPTION
**Pull request by YaelDillies**
Partially forward-port https://github.com/leanprover-community/mathlib/pull/15260

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Game/PGame.lean [hunk 1]
```diff
@@ -731,6 +732,60 @@ theorem leftResponse_spec {x : PGame} (h : 0 ≤ x) (j : x.RightMoves) :
   Classical.choose_spec <| (zero_le.1 h) j
 #align pgame.left_response_spec SetTheory.PGame.leftResponse_spec
 
+/-- An explicit upper bound for a family of pre-games, whose left moves are the union of the left
+moves of all the pre-games in the family. -/
+def upperBound {ι : Type u} (f : ι → PGame.{u}) : PGame :=
+  ⟨Σ i, (f i).LeftMoves, PEmpty, fun x => moveLeft _ x.2, PEmpty.elim⟩
```
Comment (timotree3) [inline Mathlib/SetTheory/Game/PGame.lean:738]: I'm hesitant about this definition. If it's just a helper definition for proving `bddAbove_of_small`, I don't mind it, although I imagine that `⟨ι, PEmpty, f, PEmpty.elim⟩` would be easier to work with. If this is supposed to be a useful canonical definition of an upper bound for pre-games, I think it's a suboptimal one to choose. One desirable property of a canonical upper bound is that it is the least upper bound if one exists. This definition does not satisfy that property. (e.g. upperBound {0, 1/2} = upperBound {{ | }, {0 | 1}} = {0 | } = 1 ≠ 1/2.)

Would it be reasonable to request that this definition and any required lemmas for it be inlined into the proof of `bddAbove_of_small`? (And perhaps the proof can even be golfed by changing the definition to `⟨ι, PEmpty, f, PEmpty.elim⟩`)

Alternatively, if we can think of a simple upper bound definition that does take on the least upper bound when possible, I would be happy to see that used to prove `bddAbove_of_small` instead.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 2]
```diff
@@ -731,6 +732,60 @@ theorem leftResponse_spec {x : PGame} (h : 0 ≤ x) (j : x.RightMoves) :
...
+
+/-- A small set `s` of pre-games is bounded above. -/
+lemma bddAbove_of_small (s : Set PGame.{u}) [Small.{u} s] : BddAbove s :=
+  ⟨_, upperBound_mem_upperBounds s⟩
+#align pgame.bdd_above_of_small SetTheory.PGame.bddAbove_of_small
+
+/-- An explicit lower bound for a family of pre-games, whose right moves are the union of the right
+moves of all the pre-games in the family. -/
+def lowerBound {ι : Type u} (f : ι → PGame.{u}) : PGame :=
+  ⟨PEmpty, Σ i, (f i).RightMoves, PEmpty.elim, fun x => moveRight _ x.2⟩
```
Comment (timotree3) [inline Mathlib/SetTheory/Game/PGame.lean:765]: Same feedback as for `upperBound`

**Review by timotree3 — COMMENTED** [review]
Thanks for the forward port! I'm trying to pitch in with a review as someone with an interest in CGT. This is indeed a faithful forward port of the pgame.lean changes in leanprover-community/mathlib#15260, so while I do have some requested changes, I don't mind if we merge this and save my feedback for a future PR.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 3]
```diff
@@ -732,58 +732,40 @@ theorem leftResponse_spec {x : PGame} (h : 0 ≤ x) (j : x.RightMoves) :
...
-/-- A small set `s` of pre-games is bounded below. -/
-lemma bddBelow_of_small (s : Set PGame.{u}) [Small.{u} s] : BddBelow s :=
-  ⟨_, lowerBound_mem_lowerBounds s⟩
+#noalign pgame.lower_bound
+#noalign pgame.lower_bound_left_moves_empty
+#noalign pgame.lower_bound_le
+#noalign pgame.lower_bound_mem_lower_bounds
+
+/-- A small family of pre-games is bounded below. -/
+lemma bddBelow_range_of_small [Small.{u} ι] (f : ι → PGame.{u}) : BddBelow (Set.range f) := by
```
Comment (timotree3) [inline Mathlib/SetTheory/Game/PGame.lean:759]: Same question

**Review by timotree3 — APPROVED** [review]
LGTM. Thanks! I have one question/non-blocking suggestion

File: Mathlib/SetTheory/Game/PGame.lean [hunk 4]
```diff
@@ -731,6 +732,42 @@ theorem leftResponse_spec {x : PGame} (h : 0 ≤ x) (j : x.RightMoves) :
...
+#noalign pgame.le_upper_bound
+#noalign pgame.upper_bound_mem_upper_bounds
+
+/-- A small family of pre-games is bounded above. -/
+lemma bddAbove_range_of_small [Small.{u} ι] (f : ι → PGame.{u}) : BddAbove (Set.range f) := by
+  let x : PGame.{u} := ⟨Σ i, (f $ (equivShrink.{u} ι).symm i).LeftMoves, PEmpty,
+    fun x ↦ moveLeft _ x.2, PEmpty.elim⟩
+  refine ⟨x, Set.forall_range_iff.2 fun i ↦ ?_⟩
+  rw [← (equivShrink ι).symm_apply_apply i, le_iff_forall_lf]
+  simpa using fun j ↦ @moveLeft_lf x ⟨equivShrink ι i, j⟩
```
[the remark this answers is not in the document]
Comment (timotree3) [reply Mathlib/SetTheory/Game/PGame.lean:746]: On the other hand, maybe this lemma is good for searchability? A user might be expecting to prove `BddAbove` via a family and not know what `Small` means so fail to identify that `bddAbove_of_small` is applicable?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/SetTheory/Game/PGame.lean:746]: Most predicates in mathlib come in two kinds: A set version and an indexed version. You can define `IsFooSet s` as `IsFooFamily (Subtype.val : s → α)` and you can define `IsFooFamily f` as `IsFooSet (Set.range f)` (assuming duplicates in your family don't matter). However, it is usually impractical to use one predicate in place of the other:
* When using `IsFooFamily (Subtype.val : s → α)`, elements of `s` are now images of the coercion `Subtype.val : s → α`
* When using `IsFooSet (Set.range f)`, you need to replace `y ∈ Set.range f` by `f x`, `x` and vice-versa.

It is therefore preferrable to have both predicates (see eg `IsDirected`). This is currently not the case for `BddAbove`, where we only have the set version. Hence I am acting as if `BddAbove (Set.range _)` was a predicate, because many lemmas expect it in that form and because it might become one in the future. The fact that `bddAbove_range_of_small` can be syntactically derived from `bddAbove_of_small` is somehow an accident of us not having the family predicate, and I would rather not muddle the waters by only having the set version of the lemma.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/Game/PGame.lean:759]: No need to point out everything twice. Despite contrary claims, I am in fact not a LLM 😉

File: Mathlib/SetTheory/Game/PGame.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (timotree3) [reply Mathlib/SetTheory/Game/PGame.lean:746]: Interesting! Thanks for the explanation

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
